US08080558B2
Preparation of 6,7-dimethoxy-4-[1-(pyridine-2-ylmethyl)-1H-tetrazol-5-yl]-quinazoline
Experimental Procedure: 50.0 ml of N,N-dimethyl acetamide and 5.0 g (0.019 mol) of 6,7-dimethoxy-4-(1H-tetrazol-5-yl)quinazoline were charged into a 250 ml of 4 necked round bottom flask, connected to a mechanical stirrer, thermometer socket, condenser and addition flask under mild nitrogen atmosphere. 3.80 g (0.038 mol) of triethyl amine was added at 25-30° C. Stirred the mass for 15-20 min at 25-30° C. Reaction mass temperature was raised to 50-55° C. Maintained the mass temperature at 50-55° C. for 15-20 min. 2-chloro methylpyridine hydrochloride solution [3.20 g (0.019 mol) 2-chloro methylpyridine hydrochloride was dissolved in 25.0 ml of N,N-dimethyl acetamide] was added slowly at 50-55° C. for 30-45 min. Maintained the mass temperature at 50-55° C. for 15-20 min. Raised the mass temperature to 80-85° C. Maintained the mass temperature at 80-85° C. for 7-8 hours. N,N-dimethyl acetamide was completely distilled off under vacuum. Crude compound was purified by the column chromatography by using hexane and ethyl acetate. Obtained 1.90 g (yield 28.0% by theory) of pure compound weight.

reactant | 6,7-dimethoxy-4-(1H-tetrazol-5-yl)quinazoline | 0.019 mol, 5.0 g | COC=1C=C2C(=NC=NC2=CC1OC)C1=NN=NN1 | C11H10N6O2
reactant | triethyl amine | 0.038 mol, 3.80 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro methylpyridine hydrochloride | 0.019 mol, 25.0 ml, 3.20 g | Cl.ClCC1=NC=CC=C1
reactant | 2-chloro methylpyridine hydrochloride | 0.019 mol | Cl.ClCC1=NC=CC=C1
solvent | N,N-dimethyl acetamide | 50.0 ml | CN(C(C)=O)C | C4H9NO
product | 6,7-dimethoxy-4-[1-(pyridine-2-ylmethyl)-1H-tetrazol-5-yl]-quinazoline | yield 28.0% | COC=1C=C2C(=NC=NC2=CC1OC)C1=NN=NN1CC1=NC=CC=C1 | C17H15N7O2
